US04642365
Pyrocatechol (0.993 g, 9.02 mM) was dissolved in 50 ml of ether and, using 1.825 g (18.04 mM) of triethylamine and 1.723 (9.02 mM) of n-butyl dichlorophosphate, the reaction was carried out at -5° C. to 0° C. and the reaction mixtured treated in the same manner as in Reference Example 1. There was obtained 1.914 g (93.0% yield) of n-butyl o-phenylene phosphate as a colorless viscous oil.

reactant | Pyrocatechol | 9.02 mM, 0.993 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | triethylamine | 18.04 mM, 1.825 g | C(C)N(CC)CC | C6H15N
reactant | n-butyl dichlorophosphate | P(=O)(OCCCC)(Cl)Cl | C4H9Cl2O2P
solvent | ether | 50 ml | CCOCC | C4H10O
product | n-butyl o-phenylene phosphate | 1.914 g, 93.0% yield | P1(=O)(OCCCC)OC2=C(C=CC=C2)O1 | C10H13O4P
